US09416132B2
89. N-(trans-4-((3-(3-fluorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)methanesulfonamide (EX. 8-89)
To a 0° C. solution of trans-N1-(3-(3-fluorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine (180 mg, 0.55 mmol) and DIPEA (213.2 mg, 1.65 mol) in DMSO (2.8 mL) was added dropwise MeSO2Cl (63.4 mg, 0.55 mmol). The resulting mixture was stirred at room temperature overnight. LCMS showed most of starting material was converted. The mixture was partitioned between brine (100 mL) and EtOAc (50 mL) and separated. The aqueous layer was extracted with EtOAc (50 mL*3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep-HPLC to give EX. 8-89 (13 mg, 6%) as a brown solid.

reactant | trans-N1-(3-(3-fluorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine | 0.55 mmol, 180 mg | FC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)N | C18H20FN5
reactant | DIPEA | 1.65 mol, 213.2 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | MeSO2Cl | 0.55 mmol, 63.4 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMSO | 2.8 mL | CS(=O)C | C2H6OS
product | N-(trans-4-((3-(3-fluorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)methanesulfonamide | FC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)NS(=O)(=O)C | C19H22FN5O2S
